US07399865B2
4-Benzyloxy-3-chloro-nitrobenzene
A 15.43 g (0.275 moles) portion of solid (pellets) potassium hydroxide was added to a solution of 43.89 g (0.25 moles) of 3-chloro-4-fluoro nitrobenzene and 32.34 ml (33.79 grams, 0.373 moles) of benzyl alcohol in 220 ml of acetonitrile. The reaction was vigorously stirred with a mechanical stirrer overnight. The resulting solid was filtered. Concentration of the filtrate gave a second crop, which was also filtered. On standing more solid came out of this filtrate. This mixture was treated with ether, and the solid filtered. All solids were washed thoroughly with water, and combined to give 49.71 g of the title compound.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-chloro-4-fluoro nitrobenzene | 0.25 moles, 43.89 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | benzyl alcohol | 0.373 moles, 32.34 ml, 33.79 grams | C(C1=CC=CC=C1)O | C7H8O
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
product | 4-Benzyloxy-3-chloro-nitrobenzene | 49.71 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C13H10ClNO3
